US04006145
50 g of 2-bromo- 10,11-dihydro-dibenzo[b,f]thiepin-10-one are dispersed in 250 ml of ethanol, treated with 9.9 g of sodium borohydride and stirred for 1 hour. After the addition of water, the mixture is extracted with ether. The organic phase is washed with water, dried over magnesium sulphate and evaporated. There is obtained 2-bromo- 10,11-dihydro-dibenzo-[b,f]thiepin-10-ol of melting point 108°-110° C.

reactant | 2-bromo- 10,11-dihydro-dibenzo[b,f]thiepin-10-one | 50 g | BrC1=CC2=C(SC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H9BrOS
reactant | sodium borohydride | 9.9 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-bromo- 10,11-dihydro-dibenzo-[b,f]thiepin-10-ol | BrC1=CC2=C(SC3=C(C(C2)O)C=CC=C3)C=C1 | C14H11BrOS
